US04692532
1,3-bis(3,5-di-tert.-butyl-4-hydroxyphenylthiomethyl)-2-imidazolidone
A solution of 3.65 grams of 1,3-bis(hydroxymethyl)-2-imidazolidone and 11.92 grams of 3,5-di-t-butyl-4-hydroxybenzenethiol in 100 ml of methyl alcohol was treated with anhydrous hydrogen chloride. The reaction mixture was cooled and the product recrystallized from methyl alcohol to give 11.43 grams of white solid, m.p. 173°-176° C.

reactant | 1,3-bis(hydroxymethyl)-2-imidazolidone | 3.65 grams | OCN1C(N(CC1)CO)=O | C5H10N2O3
reactant | 3,5-di-t-butyl-4-hydroxybenzenethiol | 11.92 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S | C14H22OS
reactant | hydrogen chloride | Cl | ClH
solvent | methyl alcohol | 100 ml | CO | CH4O
product | 1,3-bis(3,5-di-tert.-butyl-4-hydroxyphenylthiomethyl)-2-imidazolidone | 11.43 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCN1C(N(CC1)CSC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C33H50N2O3S2
